US09353086B2
1-(2-Fluoro-1-fluoromethyl-ethyl)-piperidin-4-one
1,4-Pentadien-3-ol (200 mg, 2.38 mmol) and IBX (999 mg, 3.57 mmol) were dissolved in DCE (15 mL) and heated at 70° C. for 3 h. The reaction mixture was filtered, diluted with MeOH (10 mL) and 2-fluoro-1-fluoromethyl-ethylamine (226 mg, 2.38 mmol) was added. The reaction mixture was stirred at 70° C. for 3 h. Isocyanate resin was added and the reaction mixture stirred at room temperature for 6 h, filtered and concentrated in vacuo to give the crude title compound (160 mg, 38%) as an orange gum. LCMS (ES+): 178.1 [MH]+.

reactant | 1,4-Pentadien-3-ol | 2.38 mmol, 200 mg | C=CC(C=C)O | C5H8O
reactant | 2-fluoro-1-fluoromethyl-ethylamine | 2.38 mmol, 226 mg | FCC(CF)N | C3H7F2N
reactant | Isocyanate | [N-]=C=O
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(2-Fluoro-1-fluoromethyl-ethyl)-piperidin-4-one | 160 mg, 38% | FCC(CF)N1CCC(CC1)=O | C8H13F2NO
